US07507760B2
A. Synthesis of (R)-6,6-Bis-(4-fluoro-phenyl)-hexanoic acid methyl-pyrrolidin-3-yl-amide
To a solution of 6,6-Bis-(4-fluoro-phenyl)-hexanoic acid(1-benzoyl-pyrrolidin-3-yl)-methyl amide(1.0 g, 2.1 mmol in CH3OH (50 ml) was added Pd/C 20% (250 mg). The resulting slurry was hydrogenated at 50 psi for 24 hours. The catalyst was filtered through Celite and filtrate evaporated under reduced pressure to give 0.78 g of desired product.

reactant | 6,6-Bis-(4-fluoro-phenyl)-hexanoic acid(1-benzoyl-pyrrolidin-3-yl)-methyl amide | C(C1=CC=CC=C1)(=O)N1CC(CC1)N(C(CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O)C | C30H32F2N2O2
solvent | CH3OH | 50 ml | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | (R)-6,6-Bis-(4-fluoro-phenyl)-hexanoic acid methyl-pyrrolidin-3-yl-amide | 0.78 g | CN(C(CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O)[C@H]1CNCC1 | C23H28F2N2O
